US08580824B2
To a solution of 2-isobutyl-N-methoxy-6,N-dimethyl-isonicotinamide (410 mg, 1.74 mmol) in THF (10 mL), methyl magnesium bromide (1.17 mL of a 3 M solution in ether, 3.47 mmol) is added at 5° C. The mixture is stirred at 5° C. for 1.5 h. The reaction is quenched by adding NH4Cl. The mixture is diluted with EA (50 mL), washed with sat. aq. NaHCO3, dried over Na2SO4, filtered and concentrated. The crude product is purified by CC on silica gel eluting with heptane:EA 4:1 to give 1-(2-isobutyl-6-methyl-pyridin-4-yl)-ethanone (280 mg) as a colourless oil. LC-MS: tR=0.84 min.

reactant | 2-isobutyl-N-methoxy-6,N-dimethyl-isonicotinamide | 1.74 mmol, 410 mg | C(C(C)C)C=1C=C(C(=O)N(C)OC)C=C(N1)C | C13H20N2O2
reactant | THF | 10 mL | C1CCOC1 | C4H8O
solvent | methyl magnesium bromide | C[Mg]Br
solvent | ether | CCOCC | C4H10O
product | 1-(2-isobutyl-6-methyl-pyridin-4-yl)-ethanone | 280 mg | C(C(C)C)C1=NC(=CC(=C1)C(C)=O)C | C12H17NO
